2102-04-08 07:54:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2102-4-7**] 09:00 AM
   gall bladder u/s
 TRANSTHORACIC ECHO - At [**2102-4-7**] 10:00 AM
 BRONCHOSCOPY - At [**2102-4-7**] 04:25 PM
   -U/S liver was limited exam w/o obvious evidence of cholelithiasis,
   calicified granulomas c/w prior granulomatous disease, and inadequate
   evaluation of liver mass
   -CT Chest w/ contrast showed multiple areas of consolidation c/w
   multifocal pneumonia as well as large bilateral effusions
   -Echo showed preserved EF, severe pulmonary HTN, moderate MR, Mild to
   moderate MS, mild to moderate TR
   -Bronched with some thick secretions
   -Got HTN in the PM with SBP's to the 190's, given extra 0.1 mg
   clonidine and advanced back up to 0.2 mg [**Hospital1 **] (0.2 mg TID is home dose)
   -Postponed weaning for the day due to large pleural effusions and less
   than optimized fluid status
   -Consistently bradycardic
   -Received furosemide IV *2 in addition to home PO regimen for diuresis
   Patient unable to provide history: Sedated, demented, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-7**] 10:04 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2102-4-7**] 04:20 PM
   Furosemide (Lasix) - [**2102-4-7**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-8**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-8**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 47 (40 - 66) bpm
   BP: 178/49(91) {119/39(63) - 199/78(120)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,629 mL
                                                                  1,139 mL
   PO:
             TF:
                                                                     77 mL
                                                                    154 mL
   IVF:
                                                                  2,402 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                  1,667 mL
                                                                  1,380 mL
   Urine:
                                                                  1,667 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 153 (153 - 350) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/35/122/29/0
   Ve: 5.5 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : few, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   318 K/uL
   10.7 g/dL
   153 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   31.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2102-4-6**]  06:03 PM
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
   WBC
   16.0
   11.0
   Hct
   32.9
   31.0
   Plt
   334
   318
   Cr
   0.7
   0.8
   TCO2
   24
   24
   24
   25
   23
   Glucose
   136
   153
   Other labs: PT / PTT / INR:14.3/35.5/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: BAL Fluid
   GRAM STAIN (Final [**2102-4-8**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   LEGIONELLA CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
   Imaging: Liver Ultrasound:
   ---------------------
   IMPRESSION:
    1. Limited evaluation of gallbladder without evidence of
   cholelithiasis.
    2. Very limited evaluation of the liver. Mass and hepatic
   calcifications are
   better evaluated on concurrent CT abdomen.
    3. Splenic calcifications suggest prior granulomatous disease.
   CT Chest w/Contrast
   --------------------------
   No PE. Large to moderate bilateral pleural effusions, with associated
   atelectasis. Multifocal consolidations compatible with areas of
   pneumonia.
   Multiple calcified nodules in liver and spleen. 37 x 34 mm hypodense
   mass in
   liver; suggest correlation with abdominal study.
   TTE:
   -------
   IMPRESSION: Preserved regional and global biventricular systolic
   function. Severe pulmonary hypertension. Moderate mitral regurgitation.
   Mild to moderate functional mitral stenosis from mitral annular
   calcification. Mild to moderate tricuspid regurgitation.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
    #. Respiratory failure/Pneumonia:  Patient presented with hypoxia and
   tachypnea and her CXR is consistent with a LUL consolidation
   pneumonia.  Strep pneumonia is the likely causative [**Doctor Last Name **].
   Contributing factors may include CHF given her pleural effusions and
   lasix.  No significant risk factors for MRSA or pseudomonas so will
   treat for CAP.  Currently intubated on AC.
   - ceftriaxone and azithro
   - f/u BCx, UCx, SCx
   - check BNP, ASO, urine legionella
   - no changes to ventilator settings for now
   - A-line
    #. Elevated LFTs:  AST and ALT in 80s, Alk phos elevated, but
   bilirubin normal.  Differential includes cholelithiasis, hepatitis, and
   liver mets.
   - will check RUQ U/S
   - trend LFTs
    #. Hypertension:  On aggressive regimen at home including beta
   [**Last Name (LF) 770**], [**First Name3 (LF) 4909**]-1 [**First Name3 (LF) 770**], CCB, and ACE inhibitor.  Currently
   normotensive.  Because of concern for possible development of sepsis,
   will not aggressive control blood pressure.  Clonidine patch on back
   removed by nurses.
   - will continue po clonidine at equivalent dose of clonidine patch
   - consider short-acting captopril but hold anti-hypertensives for now
   - continue home lasix
   #. Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) **] contact home pharmacy in a.m. to confirm.  Fairly
   severe, as patient frequently does not recognize her [**Name (NI) 4862**].
    #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Wound care consult.
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
    FEN: chronic aspiration risk per [**Name (NI) 4862**]; patient normally has
   apple-sauce thickened food at home.
   - nutrition c/s for TF reccs
   - S&S evaluation when extubated
   - aspiration precautions
    PPX:
   -DVT ppx with famotidine
   -Bowel regimen with colace, senna
   -Pain management with tylenol
    ACCESS: PIV's
    CODE STATUS: Full, discussed with [**Name (NI) 4862**].  At this time, they wish
   to have "all interventions."
    EMERGENCY CONTACT: [**Name (NI) **] makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
    DISPOSITION: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-4-7**] 05:43 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-4-6**] 07:37 PM
   20 Gauge - [**2102-4-6**] 07:37 PM
   Arterial Line - [**2102-4-6**] 11:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 [**Year (4 digits) 770**]
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-04-08 08:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **] yr odl with dementia PNA
   24 Hour Events:
 ULTRASOUND - At [**2102-4-7**] 09:00 AM
   gall bladder u/s
 old granulomatosis disease
 TRANSTHORACIC ECHO - At [**2102-4-7**] 10:00 AM
 BRONCHOSCOPY - At [**2102-4-7**] 04:25 PM
   Chest CT : GGO and large bilat effussions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-7**] 10:04 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2102-4-7**] 04:20 PM
   Furosemide (Lasix) - [**2102-4-7**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-8**] 04:08 AM
   Other medications:
   Ceftriaxone, PPI Captopril, Clonidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-8**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 47 (40 - 66) bpm
   BP: 178/49(91) {119/39(63) - 199/78(120)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,629 mL
                                                                  1,240 mL
   PO:
             TF:
                                                                     77 mL
                                                                    168 mL
   IVF:
                                                                  2,402 mL
                                                                  1,072 mL
   Blood products:
   Total out:
                                                                  1,667 mL
                                                                  1,380 mL
   Urine:
                                                                  1,667 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 153 (153 - 153) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/35/122/29/0
   Ve: 4.4 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Gen: elderly woman, lying in bed, intubated and sedated
   HEENT: ETT
   CV: brady RR
   Chest: focal LUL wheeze
   Abd: soft NT +BS
   Ext: no edema
   Labs / Radiology
   10.7 g/dL
   318 K/uL
   153 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   31.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2102-4-6**]  06:03 PM
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
   WBC
   16.0
   11.0
   Hct
   32.9
   31.0
   Plt
   334
   318
   Cr
   0.7
   0.8
   TCO2
   24
   24
   24
   25
   23
   Glucose
   136
   153
   Other labs: PT / PTT / INR:14.1/48.6/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:2.0 mg/dL
   BAL 3+ PMN, no organisms
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
   1.       Respiratory Failure: in setting of PNA and volume overload and
   deconditioning. Will continue Rx with Azithro, Ceftriaxone, follow up
   Cx, will try to switch over to PSV today and see if she can maintain
   oxygenation and adequate minute ventilation
 but at this point she
   still needs sig ventilatory support.
   2.       Volume Overload: goal is to run -500 cc, and BP suggests she
   should tolerate
   3.       HTN: titrate up antiHTN,  specifically ACEI guven brady cardia
   4.       Liver lesion: requires follow up when extubated with better
   imaging - ? possible MRI
   5.       Bradycardia: maybe propafol and high dose clonidine. Stop
   propoafol and bolus sedation prn.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:  Fibersource HN (Full) - [**2102-4-7**] 05:43 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-4-6**] 07:37 PM
   20 Gauge - [**2102-4-6**] 07:37 PM
   Arterial Line - [**2102-4-6**] 11:04 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  spoke with family  at bedside
   Code status: FULL
   Disposition : ICU
   Total time spent: 40

2102-04-08 11:38:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2102-4-7**] 09:00 AM
   gall bladder u/s
 TRANSTHORACIC ECHO - At [**2102-4-7**] 10:00 AM
 BRONCHOSCOPY - At [**2102-4-7**] 04:25 PM
   -U/S liver was limited exam w/o obvious evidence of cholelithiasis,
   calicified granulomas c/w prior granulomatous disease, and inadequate
   evaluation of liver mass
   -CT Chest w/ contrast showed multiple areas of consolidation c/w
   multifocal pneumonia as well as large bilateral effusions
   -Echo showed preserved EF, severe pulmonary HTN, moderate MR, Mild to
   moderate MS, mild to moderate TR
   -Bronched with some thick secretions
   -Got HTN in the PM with SBP's to the 190's, given extra 0.1 mg
   clonidine and advanced back up to 0.2 mg [**Hospital1 **] (0.2 mg TID is home dose)
   -Postponed weaning for the day due to large pleural effusions and less
   than optimized fluid status
   -Consistently bradycardic
   -Received furosemide IV *2 in addition to home PO regimen for diuresis
   Patient unable to provide history: Sedated, Language barrier,
   intubated, demented
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-8**] 10:31 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2102-4-7**] 04:20 PM
   Furosemide (Lasix) - [**2102-4-7**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-8**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-8**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 42 (40 - 64) bpm
   BP: 154/43(76) {119/39(63) - 199/78(120)} mmHg
   RR: 12 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,629 mL
                                                                  1,608 mL
   PO:
             TF:
                                                                     77 mL
                                                                    205 mL
   IVF:
                                                                  2,402 mL
                                                                  1,403 mL
   Blood products:
   Total out:
                                                                  1,667 mL
                                                                  1,780 mL
   Urine:
                                                                  1,667 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 153 (153 - 153) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 4.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: left upper lobe)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   10.7 g/dL
   153 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   31.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2102-4-6**]  06:03 PM
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
   WBC
   16.0
   11.0
   Hct
   32.9
   31.0
   Plt
   334
   318
   Cr
   0.7
   0.8
   TCO2
   24
   24
   24
   25
   23
   Glucose
   136
   153
   Other labs: PT / PTT / INR:14.1/48.6/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:2.0 mg/dL
   Imaging: CTA Chest:
   IMPRESSION:
   1. Negative examination for pulmonary embolism.
   2. Large to moderate amount of bilateral pleural effusion associated
   with
   adjacent atelectasis.
   3. Multifocal areas of consolidation of right upper lobe, right middle
   lobe,
   and both lower lobes are probably related to pneumonia.
   4. Known mass in left axilla that seems to be invading the left breast.
   5. Multiple calcified nodules in the liver and spleen suggest prior
   granulomatous exposure.
   6. Hypodense mass in right hepatic lobe. Dedicated abdominal evaluation
   is
   suggested.
   TTE:
   IMPRESSION:
   1. Limited evaluation of gallbladder without evidence of
   cholelithiasis.
   2. Very limited evaluation of the liver. Mass and hepatic
   calcifications are
   better evaluated on concurrent CT abdomen.
   3. Splenic calcifications suggest prior granulomatous disease.
   TTE:
   IMPRESSION: Preserved regional and global biventricular systolic
   function. Severe pulmonary hypertension. Moderate mitral regurgitation.
   Mild to moderate functional mitral stenosis from mitral annular
   calcification. Mild to moderate tricuspid regurgitation.
   Assessment and Plan
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
   #. Respiratory failure/Pneumonia:  Patient presented with hypoxia and
   tachypnea and her CXR is consistent with a LUL consolidation
   pneumonia.  Strep pneumonia is the likely causative [**Doctor Last Name **].
   Contributing factors may include CHF given her pleural effusions and
   lasix.  No significant risk factors for MRSA or pseudomonas so will
   treat for CAP.  Currently intubated on AC.
   - ceftriaxone and azithro
   - f/u BCx, UCx, SCx
   - Attempt to achieve -500 to -1000ml today
   -attempt to wean to PS this PM
   #. Elevated LFTs:  Improving and w/o clear etiology of elevation.
   #. Hypertension:  On aggressive regimen at home including beta [**Doctor Last Name 770**],
   [**Doctor Last Name 4909**]-1 [**Doctor Last Name 770**], CCB, and ACE inhibitor.  Because of bradycardia
   unenthusiastic to restart nodal agents but will titrate up afterload
   reducers as tolerated.
   #. Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) **] contact home pharmacy in a.m. to confirm.  Fairly
   severe, as patient frequently does not recognize her [**Name (NI) 4862**].
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   FEN: chronic aspiration risk per [**Name (NI) 4862**]; patient normally has
   apple-sauce thickened food at home.
   - tube feeds
   - S&S evaluation when extubated
   - aspiration precautions
   PPX:
   -DVT ppx with famotidine
   -Bowel regimen with colace, senna
   -Pain management with tylenol
   ACCESS: PIV's, A line
   CODE STATUS: Full, discussed with [**Name (NI) 4862**].  At this time, they wish to
   have "all interventions."
   EMERGENCY CONTACT: [**Name (NI) **] makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-4-6**] 07:37 PM
   20 Gauge - [**2102-4-6**] 07:37 PM
   Arterial Line - [**2102-4-6**] 11:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 [**Year (4 digits) 770**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-04-09 08:11:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - Incr clonidine to .2 TID and captopril 75 TID
   -confirmed full code status with family
   - did PS trial but became tachypneic with TV <250. Put back on propofol
   gtt and A/C for night
   - Per ABG in afternoon 7.51/36/151/30, likely has contraction alkylosis
   so kept home furosemide 20 PO Daily but  no further diuresis
   -ordered bowel regimen
   -plan to hold TF in am for PS trial and possible extubation
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-8**] 10:31 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-9**] 04:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**3-13**] language barrier, intubation,
   sedation and dementia
   Flowsheet Data as of  [**2102-4-9**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 46 (40 - 65) bpm
   BP: 174/56(96) {104/29(53) - 191/65(108)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                  2,570 mL
                                                                  1,579 mL
   PO:
             TF:
                                                                    507 mL
                                                                    170 mL
   IVF:
                                                                  1,883 mL
                                                                  1,289 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    435 mL
   Urine:
                                                                  2,585 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                  1,144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 294 (294 - 350) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.46/39/160/27/4
   Ve: 3.6 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   faint at bases, Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Non -purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   294 K/uL
   10.5 g/dL
   212 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2102-4-6**]  06:03 PM
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
                             [**2102-4-8**]  01:08 PM
                             [**2102-4-9**]  05:13 AM
                             [**2102-4-9**]  05:31 AM
   WBC
   16.0
   11.0
   9.0
   Hct
   32.9
   31.0
   31.6
   Plt
   [**Telephone/Fax (3) 4932**]
   Cr
   0.7
   0.8
   0.7
   TCO2
   24
   24
   24
   25
   23
   30
   29
   Glucose
   136
   153
   212
   Other labs: PT / PTT / INR:12.8/48.0/1.1, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
   #. Respiratory failure/Pneumonia:  Patient presented with hypoxia and
   tachypnea and her CXR is consistent with a LUL consolidation
   pneumonia.  Strep pneumonia is the likely causative [**Doctor Last Name **].
   Contributing factors may include CHF given her pleural effusions and
   lasix.  No significant risk factors for MRSA or pseudomonas so will
   treat for CAP.  Currently intubated on AC.
   - ceftriaxone and azithro
   - f/u BCx, UCx, SCx
   - Attempt to achieve -500 to -1000ml today
   -attempt to wean to PS this PM
   #. Elevated LFTs:  Improving and w/o clear etiology of elevation.
   #. Hypertension:  On aggressive regimen at home including beta blocker,
   alpha-1 blocker, CCB, and ACE inhibitor.  Because of bradycardia
   unenthusiastic to restart nodal agents but will titrate up afterload
   reducers as tolerated.
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) **] contact home pharmacy in a.m. to confirm.  Fairly
   severe, as patient frequently does not recognize her [**Name (NI) 4862**].
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   FEN: chronic aspiration risk per [**Name (NI) 4862**]; patient normally has
   apple-sauce thickened food at home.
   - tube feeds
   - S&S evaluation when extubated
   - aspiration precautions
   PPX:
   -DVT ppx with famotidine
   -Bowel regimen with colace, senna
   -Pain management with tylenol
   ACCESS: PIV's, A line
   CODE STATUS: Full, discussed with [**Name (NI) 4862**].  At this time, they wish to
   have "all interventions."
   EMERGENCY CONTACT: [**Name (NI) **] makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   DISPOSITION: ICU
   ICU Care
   Nutrition: TF
 on hold for possible extubation today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-4-6**] 11:04 PM
   20 Gauge - [**2102-4-9**] 07:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   This note was signed in error prior to rounds. The following updates
   were made to the plan:
   # Resp failure- pt doing well this am on [**6-13**] but concern for possible
   flash with elevated BP this am. Will attempt to control BP with
   furosemide (pt already +1.1L today) and hydralazine and extubated this
   afternoon. Will continue ceftriaxone, azithro at this time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2113**] [**Last Name (NamePattern1) 1277**], MD
   on:[**2102-4-9**] 10:32 ------

2102-04-09 09:49:00 Physician Attending Progress Note
Chief Complaint: resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tried PSV yesterday but tachypnea
   Treid again this AM with good effect an d remains on [**6-13**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-8**] 10:31 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-9**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-9**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 60 (40 - 65) bpm
   BP: 177/58(99) {104/29(53) - 191/65(108)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                  2,570 mL
                                                                  1,748 mL
   PO:
             TF:
                                                                    507 mL
                                                                    170 mL
   IVF:
                                                                  1,883 mL
                                                                  1,458 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    635 mL
   Urine:
                                                                  2,585 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                  1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 273 (273 - 350) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.48/38/152/27/5
   Ve: 5.5 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   294 K/uL
   212 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
                             [**2102-4-8**]  01:08 PM
                             [**2102-4-9**]  05:13 AM
                             [**2102-4-9**]  05:31 AM
                             [**2102-4-9**]  09:14 AM
   WBC
   16.0
   11.0
   9.0
   Hct
   32.9
   31.0
   31.6
   Plt
   [**Telephone/Fax (3) 4932**]
   Cr
   0.7
   0.8
   0.7
   TCO2
   24
   24
   25
   23
   30
   29
   29
   Glucose
   136
   153
   212
   Other labs: PT / PTT / INR:12.8/48.0/1.1, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
   1.       Respiratory Failure: in setting of PNA and volume overload and
   deconditioning. Will continue Rx with Azithro, Ceftriaxone, follow up
   Cx, will try to switch over to PSV today and see if she can maintain
   oxygenation and adequate minute ventilation
 but at this point she
   still needs sig ventilatory support.
   2.       Volume Overload: goal is to run -500 cc, and BP suggests she
   should tolerate
   3.       HTN: titrate up antiHTN,  specifically ACEI guven brady cardia
   4.       Liver lesion: requires follow up when extubated with better
   imaging - ? possible MRI
   5.       Bradycardia: maybe propafol and high dose clonidine. Stop
   propoafol and bolus sedation prn.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-4-6**] 11:04 PM
   20 Gauge - [**2102-4-9**] 07:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2102-04-09 10:05:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-8**] 10:31 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-9**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-9**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 60 (40 - 65) bpm
   BP: 177/58(99) {104/29(53) - 191/65(108)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                  2,570 mL
                                                                  1,781 mL
   PO:
             TF:
                                                                    507 mL
                                                                    170 mL
   IVF:
                                                                  1,883 mL
                                                                  1,492 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    635 mL
   Urine:
                                                                  2,585 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                  1,146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 273 (273 - 350) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.48/38/152/27/5
   Ve: 5.5 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Labs / Radiology
   10.5 g/dL
   294 K/uL
   212 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2102-4-7**]  04:02 AM
                             [**2102-4-7**]  04:19 AM
                             [**2102-4-7**]  05:05 AM
                             [**2102-4-7**]  06:09 AM
                             [**2102-4-7**]  10:16 AM
                             [**2102-4-8**]  04:44 AM
                             [**2102-4-8**]  01:08 PM
                             [**2102-4-9**]  05:13 AM
                             [**2102-4-9**]  05:31 AM
                             [**2102-4-9**]  09:14 AM
   WBC
   16.0
   11.0
   9.0
   Hct
   32.9
   31.0
   31.6
   Plt
   [**Telephone/Fax (3) 4932**]
   Cr
   0.7
   0.8
   0.7
   TCO2
   24
   24
   25
   23
   30
   29
   29
   Glucose
   136
   153
   212
   Other labs: PT / PTT / INR:12.8/48.0/1.1, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:84.2 %, Lymph:9.3 %, Mono:6.0 %,
   Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
   1.       Respiratory Failure: in setting of PNA and volume overload and
   deconditioning. Will continue Rx with Azithro, Ceftriaxone, follow up
   Cx,
   2.       Volume Overload: goal is to run -500 cc, and BP suggests she
   should tolerate
   3.       HTN: titrate up antiHTN,  specifically ACEI guven brady cardia
   4.       Liver lesion: requires follow up when extubated with better
   imaging - ? possible MRI
   5.       Bradycardia: maybe propafol and high dose clonidine. Stop
   propoafol and bolus sedation prn.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-4-6**] 11:04 PM
   20 Gauge - [**2102-4-9**] 07:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2102-04-10 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2102-4-9**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-9**] 10:11 AM
   Ceftriaxone - [**2102-4-9**] 04:19 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2102-4-10**] 02:00 AM
   Furosemide (Lasix) - [**2102-4-10**] 03:16 AM
   Heparin Sodium (Prophylaxis) - [**2102-4-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-10**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 112 (46 - 112) bpm
   BP: 169/67(104) {110/38(60) - 182/67(105)} mmHg
   RR: 33 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                  2,409 mL
                                                                    294 mL
   PO:
             TF:
                                                                    170 mL
   IVF:
                                                                  2,059 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    385 mL
   Urine:
                                                                  1,780 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 328 (273 - 572) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.43/40/101/27/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 289
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   faint at bases, Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Non -purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   356 K/uL
   11.5 g/dL
   173
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   35.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-4-8**]  01:08 PM
                             [**2102-4-9**]  05:13 AM
                             [**2102-4-9**]  05:31 AM
                             [**2102-4-9**]  09:14 AM
                             [**2102-4-9**]  03:35 PM
                             [**2102-4-9**]  08:30 PM
                             [**2102-4-10**]  03:38 AM
                             [**2102-4-10**]  03:44 AM
                             [**2102-4-10**]  06:00 AM
                             [**2102-4-10**]  06:38 AM
   WBC
   9.0
   10.3
   Hct
   31.6
   35.4
   Plt
   294
   356
   Cr
   0.7
   0.8
   TCO2
   30
   29
   29
   28
   30
   29
   27
   Glucose
   [**Telephone/Fax (3) 4958**]
   Other labs: PT / PTT / INR:13.1/31.8/1.1, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:72.0 %, Lymph:21.0 %, Mono:4.8 %,
   Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
   #. Respiratory failure/Pneumonia:  Patient presented with hypoxia and
   tachypnea and her CXR is consistent with a LUL consolidation
   pneumonia.  Strep pneumonia is the likely causative [**Doctor Last Name **].
   Contributing factors may include CHF given her pleural effusions and
   lasix.  No significant risk factors for MRSA or pseudomonas so will
   treat for CAP.  Currently intubated on AC.
   - ceftriaxone and azithro
   - f/u BCx, UCx, SCx
   - Attempt to achieve -500 to -1000ml today
   -attempt to wean to PS this PM
   #. Elevated LFTs:  Improving and w/o clear etiology of elevation.
   #. Hypertension:  On aggressive regimen at home including beta blocker,
   alpha-1 blocker, CCB, and ACE inhibitor.  Because of bradycardia
   unenthusiastic to restart nodal agents but will titrate up afterload
   reducers as tolerated.
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) **] contact home pharmacy in a.m. to confirm.  Fairly
   severe, as patient frequently does not recognize her [**Name (NI) 4862**].
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   FEN: chronic aspiration risk per [**Name (NI) 4862**]; patient normally has
   apple-sauce thickened food at home.
   - tube feeds
   - S&S evaluation when extubated
   - aspiration precautions
   PPX:
   -DVT ppx with famotidine
   -Bowel regimen with colace, senna
   -Pain management with tylenol
   ACCESS: PIV's, A line
   CODE STATUS: Full, discussed with [**Name (NI) 4862**].  At this time, they wish to
   have "all interventions."
   EMERGENCY CONTACT: [**Name (NI) **] makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   DISPOSITION: ICU
   ICU Care
   Nutrition: TF
 on hold for possible extubation today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-4-6**] 11:04 PM
   20 Gauge - [**2102-4-9**] 07:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   MEDS
           2. Azithromycin 500 mg IV Q24H d1=[**4-7**] (levoflox [**4-6**])
   18. Insulin SC  (per Insulin Flowsheet)  Sliding Scale
   5. CeftriaXONE 1 g IV Q24H d1=[**4-6**]
   14. Heparin 5000 UNIT SC TID  Order date: [**4-6**] @ [**2025**]
   4. Captopril 75 mg PO TID
   6. Chlorhexidine 0.12%Oral Rinse 15mL QID:PRN
   17. HydrALAzine 10 mg IV Q6H
   25. Senna 1 TAB PO BID:PRN
   21. Metoprolol Tartrate 100 mg PO BID
   3. Bisacodyl 10 mg PR HS:PRN
   7. CloniDINE 0.2 mg PO TID
   8. Docusate Sodium (Liquid) 100 mg PO
   13. Furosemide 20 mg PO DAILY
   1. Albuterol Inhaler 2 PUFF IH Q6H
   9. Famotidine 20 mg NG Q24H
   20. Ipratropium Bromide MDI 2 PUFF IH QID
           26. Simvastatin 20 mg PO DAILY

2102-04-11 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 4863**] is a [**Age over 90 **] year-old female with a history of
   HTN, DM, likely chronic aspiration, and Alzheimer's dementia who was
   transferred from the ED intubated after presenting with hypoxia and
   tachypnea.
   24 Hour Events:
   - extubated in a.m. but developed wheezing and labored breathing, using
   accessory muscles, 1 hr later and put on BiPAP 10/5 with improvement.
   also got lasix and nebs.
   - CXR at time of wheezing showed decreased pleural effusions and
   increased prominence of LLL opacification but nothing acute
   - family was concerned that patient was "extubated too early" but tried
   to reassure them that she met parameters for extubation
   - started on standing hydralazine for hypertension
   - stayed on BiPAP all day. Taken off in early evening but got
   tachypnic.  Taken off later in the evening and did well, remained on 2L
   NC overnight.
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-10**] 08:30 AM
   Ceftriaxone - [**2102-4-10**] 05:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2102-4-10**] 08:15 AM
   Morphine Sulfate - [**2102-4-10**] 10:00 AM
   Furosemide (Lasix) - [**2102-4-10**] 11:04 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-11**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 81 (58 - 129) bpm
   BP: 164/62(86) {145/50(76) - 164/62(86)} mmHg
   RR: 20 (9 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
                  Total In:
                                                                    654 mL
                                                                     60 mL
   PO:
                  TF:
   IVF:
                                                                    594 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    780 mL
   Urine:
                                                                  1,955 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,301 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.41/51/236/30/6
   PaO2 / FiO2: 674
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) Overweight / Obese,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, unable to participate in exam
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, No(t) Oriented (to): ,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   290 K/uL
   10.0 g/dL
   99 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   103 mEq/L
   142 mEq/L
   29.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2102-4-9**]  09:14 AM
                             [**2102-4-9**]  03:35 PM
                             [**2102-4-9**]  08:30 PM
                             [**2102-4-10**]  03:38 AM
                             [**2102-4-10**]  03:44 AM
                             [**2102-4-10**]  06:00 AM
                             [**2102-4-10**]  06:38 AM
                             [**2102-4-10**]  08:26 PM
                             [**2102-4-11**]  01:58 AM
                             [**2102-4-11**]  03:39 AM
   WBC
   10.3
   9.9
   Hct
   35.4
   29.3
   Plt
   356
   290
   Cr
   0.8
   0.8
   TCO2
   29
   28
   30
   29
   27
   32
   33
   Glucose
   109
   173
   99
   Other labs: PT / PTT / INR:13.5/25.8/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:72.0 %, Lymph:21.0 %, Mono:4.8 %,
   Eos:1.9 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
   #. Respiratory failure:  Patient presented with hypoxia and tachypnea
   and initial CXR with LUL consolidation. However, unclear if this
   definitively suggests pneumonia, as cultures have remained negative and
   pt had large mucous plug after intubation. Has also had significant
   pulmonary edema, likely due to her CHF and MR, possibly the primary
   source of her distress.
   - doing well post extubation, but in worsening pulmonary edema
   - Goal neg 2L today: IV lasix 40mg
   - continue ceftriaxone and azithro (on day 6 today), plan for 7 day
   course.
   - all cultures with neg (sputum with polys but no growth)
   - midline placement requested for IV diuresis and antibiotics.
   #. Hypertension:  Started on hydral IV and clonidine patch yest due to
   inability to tolerate PO. Now restarting home meds via NGT.
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) 4980**] severe, as patient frequently does not recognize her
   [**Name (NI) 4862**].
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   FEN: chronic aspiration risk per [**Name (NI) 4862**]; patient normally has
   apple-sauce thickened food at home.
   - plan to start tube feeds, may require post pyloric feeding if large
   residuals (holding reglan)
   - S&S evaluation
   - aspiration precautions
   PPX:
   -DVT
 Hep SC
   -GI - Famotidine
   -Bowel regimen with colace, senna
   -Pain management with tylenol
   ACCESS: poor access, needs midline for IV meds
   CODE STATUS: Full, discussed with [**Name (NI) 4862**].  At this time, they wish to
   have "all interventions." Will readdress today at family meeting with
   translator.
   EMERGENCY CONTACT: [**Name (NI) **] makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2102-4-10**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-04-12 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Large mucus plug on am CXR that cleared with deep suction on pm cxr.
   -6pm [** **] to the 170's, given lopressor 10mg IV x1, pt got 2.5mg and
   then became hypotensive to 70's systolic. Pt got 1L in fluid boluses
   and was still [**Last Name (LF) **], [**First Name3 (LF) **] gave digoxin 250mcg q6h x3, and pt's hr went to
   90's with systolic BPs in 100's.
   - midnight: pt de-sat'ed to 87% on high-flow FiO2 60%. Pt got lasix
   120mg IV, morphine and pm dose of Captopril (which had been held
   earlier). RT put pt on NC as well as high-flow and pt's sats improved
   to 92%. The whole time the pt slept peacefully. Currently on 95% high
   flow.
   - 2am ish the pt became hypertensive to 180's systolic, hydral 10mg IV
   given with good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2102-4-11**] 08:30 AM
   Ceftriaxone - [**2102-4-11**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2102-4-11**] 06:00 PM
   Furosemide (Lasix) - [**2102-4-11**] 11:38 PM
   Morphine Sulfate - [**2102-4-12**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2102-4-12**] 04:00 AM
   Other medications:
   Flowsheet Data as of  [**2102-4-12**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.2
   HR: 90 (53 - 157) bpm
   BP: 149/52(68) {75/39(47) - 183/68(97)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
                  Total In:
                                                                  1,640 mL
                                                                     40 mL
   PO:
                  TF:
   IVF:
                                                                  1,300 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    505 mL
   Urine:
                                                                  2,000 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -465 mL
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) Overweight / Obese,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, unable to participate in exam
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, No(t) Oriented (to): ,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   331 K/uL
   10.8 g/dL
   92 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   21 mg/dL
   100 mEq/L
   142 mEq/L
   33.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2102-4-9**]  08:30 PM
                             [**2102-4-10**]  03:38 AM
                             [**2102-4-10**]  03:44 AM
                             [**2102-4-10**]  06:00 AM
                             [**2102-4-10**]  06:38 AM
                             [**2102-4-10**]  08:26 PM
                             [**2102-4-11**]  01:58 AM
                             [**2102-4-11**]  03:39 AM
                             [**2102-4-11**]  05:35 PM
                             [**2102-4-12**]  03:59 AM
   WBC
   10.3
   9.9
   14.6
   Hct
   35.4
   29.3
   37.1
   33.0
   Plt
   356
   290
   331
   Cr
   0.8
   0.8
   1.0
   1.0
   TCO2
   30
   29
   27
   32
   33
   Glucose
   109
   173
   99
   117
   92
   Other labs: PT / PTT / INR:13.5/25.8/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:72.0 %, Lymph:21.0 %, Mono:4.8 %,
   Eos:1.9 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known firstname 4861**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea.
   #. Respiratory failure:  Patient presented with hypoxia and tachypnea
   and initial CXR with LUL consolidation. However, unclear if this
   definitively suggests pneumonia, as cultures have remained negative and
   pt had large mucous plug after intubation. Has also had significant
   pulmonary edema, likely due to her CHF and MR, possibly the primary
   source of her distress.
   - doing well post extubation, but in worsening pulmonary edema: on
   [**2102-4-11**] the pt had large mucus plug on am CXR that cleared with deep
   suction on pm cxr.
   - Goal neg 2L today: IV lasix boluses prn; [**Hospital1 **] lytes
   - continue ceftriaxone and azithro (on day 6 today), plan for 7 day
   course.
   - all cultures with neg (sputum with polys but no growth)
   - midline placement requested for IV diuresis and antibiotics.
   #. Hypertension:  Started on metoprolol, ACEi clonidine patch via
   NGT.
   # Afib: transient, successfully treated with digoxin
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) 4980**] severe, as patient frequently does not recognize her
   daugther.
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   ICU Care
   Nutrition:  NPO, tube feeds when stable, S+S, aspiration precautions
   Glycemic Control:
   Lines:
   Midline - [**2102-4-10**] 01:00 PM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: IV Famotidine
                  Bowel: Colace, senna, mirilax
                  Pain: Tylenol
   Communication:  Daugther makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   Code status: FULL, daughter informed that if worsens, will not give
   unnessary  tx
   Disposition: ICU
                     Active Medications [**Known lastname **],[**Known firstname **]-[**Known firstname 5009**]
                3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN
   17. Heparin 5000 UNIT SC TID
   4. Azithromycin 500 mg IV Q24H  d1=[**4-7**]
   20. Insulin SC  SS
   5. Bisacodyl 10 mg PR HS:PRN
   22. Ipratropium Bromide MDI 2 PUFF NEB QID
   6. Captopril 75 mg PO TID
   24. Metoprolol Tartrate 100 mg PO BID
   7. CeftriaXONE 1 g IV Q24H d1=[**4-6**]
   27. Polyethylene Glycol 17 g PO DAILY:PRN
   8. Chlorhexidine Gluconate 0.12% qid
   29. Senna 1 TAB PO BID:PRN
   9. CloniDINE 0.1 mg PO TID
   30. Simvastatin 20 mg PO DAILY
   10. Digoxin 0.25 mg IV Q6H Duration: 3 Doses
   12. Famotidine 20 mg NG Q24H
   11. Docusate Sodium (Liquid) 100 mg PO BID

2102-04-13 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **] year-old female with a history of HTN, DM, ?chronic
   aspiration, and Alzheimer's dementia who was transferred from the ED
   intubated after presenting with hypoxia and tachypnea. Now extubated
   with significant CHF, hypoxia, hemodynamic instability.
   24 Hour Events:
   [**2102-4-12**]
   stopped antibiotics and sent cultures. UA with some WBCs and leuks,
   awaiting UCx to start antibiotics.
   Midnight BP 180s, given extra 50mg captopril to tie over until AM.
   Given Lasix bolus and gtt.
   Family updated, but do not want to back off aggressive therapy.
   Compressions still not indicated, but OK to intubate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-4-11**] 04:00 PM
   Azithromycin - [**2102-4-12**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-12**] 11:24 AM
   Fentanyl - [**2102-4-12**] 11:33 AM
   Furosemide (Lasix) - [**2102-4-12**] 03:00 PM
   Hydralazine - [**2102-4-13**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-13**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 70 (59 - 87) bpm
   BP: 144/54(83) {101/33(52) - 197/102(105)} mmHg
   RR: 22 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                    600 mL
                                                                    432 mL
   PO:
             TF:
                                                                    120 mL
                                                                     73 mL
   IVF:
                                                                    290 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    970 mL
   Urine:
                                                                  2,105 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,505 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   General Appearance: calm
   Head, Ears, Nose, Throat: MMM
   Cardiovascular: tachycardic, rr, no murmurs
   Respiratory / Chest: Decreased BS on R crackles on L
   Abdominal: Soft, Non-tender
   Musculoskeletal: Muscle wasting,
   Skin:  Warm
   Labs / Radiology
   331 K/uL
   10.8 g/dL
   114 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.4 mEq/L
   20 mg/dL
   98 mEq/L
   142 mEq/L
   33.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2102-4-10**]  03:38 AM
                             [**2102-4-10**]  03:44 AM
                             [**2102-4-10**]  06:00 AM
                             [**2102-4-10**]  06:38 AM
                             [**2102-4-10**]  08:26 PM
                             [**2102-4-11**]  01:58 AM
                             [**2102-4-11**]  03:39 AM
                             [**2102-4-11**]  05:35 PM
                             [**2102-4-12**]  03:59 AM
                             [**2102-4-12**]  09:14 PM
   WBC
   10.3
   9.9
   14.6
   Hct
   35.4
   29.3
   37.1
   33.0
   Plt
   356
   290
   331
   Cr
   0.8
   0.8
   1.0
   1.0
   1.0
   TCO2
   29
   27
   32
   33
   Glucose
   109
   173
   99
   117
   92
   114
   Other labs: PT / PTT / INR:13.5/25.8/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:72.0 %, Lymph:21.0 %, Mono:4.8 %,
   Eos:1.9 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4863**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea. Now
   extubated with significant CHF, hypoxia, hemodynamic instability.
   #. Respiratory failure:  Patient presented with hypoxia and tachypnea
   and initial CXR with LUL consolidation. However, unclear if this
   definitively suggests pneumonia, as cultures have remained negative and
   pt had large mucous plug after intubation. New CXR show
s colllapse of
   entire R lung. Has also had significant repeated aspiration and
   pulmonary edema, likely due to her CHF and MR, possibly the primary
   source of her distress.
   - finished abx course
   - will try NT suction as likely mucous plugging that caused atelectasis
   of entire R lung
   # CHF
 pt continues to be fluid overloaded
   - goal to continue -2L today
   #. Hypertension:  Labile, pt required additional captopril and
   hydralizine overnight  as bp was up to 190s.
   -  increased clonidine to 0.2mg TID
   # Leukocytosis: concerning given rise while on antibiotics, however
   afebrile
   - repeat UA/UCx, BCx, c diff
   # Afib: transient, well controlled now on digoxin
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) 4980**] severe, as patient frequently does not recognize her
   daugther.
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
   Nutrition:  Tube feeds when stable, S+S, aspiration precautions
   Glycemic Control:
   Lines:
   Midline - [**2102-4-10**] 01:00 PM
 will try tpa to clear midline
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer: IV Famotidine
                  Bowel: Colace, senna, mirilax
                  Pain: Tylenol
   Communication:  Daugther makes health decisions, [**First Name8 (NamePattern2) 1880**] [**Last Name (NamePattern1) 4865**]
   [**Telephone/Fax (1) 4866**] (c).  Granddaughter, [**Name (NI) **] [**Name (NI) 4865**], was pharmacist in [**Country **]
   and can be reached at [**Telephone/Fax (1) 4867**] (c).
   Code status: FULL, daughter informed that if worsens, will not give
   unnessary  tx
   Disposition: ICU
                     Active Medications [**Known lastname **],[**Known firstname **]-[**Known firstname 5009**]
                3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN
   17. Heparin 5000 UNIT SC TID
   4. Azithromycin 500 mg IV Q24H  d1=[**4-7**]
   20. Insulin SC  SS
   5. Bisacodyl 10 mg PR HS:PRN
   22. Ipratropium Bromide MDI 2 PUFF NEB QID
   6. Captopril 75 mg PO TID
   24. Metoprolol Tartrate 100 mg PO BID
   7. CeftriaXONE 1 g IV Q24H d1=[**4-6**]
   27. Polyethylene Glycol 17 g PO DAILY:PRN
   8. Chlorhexidine Gluconate 0.12% qid
   29. Senna 1 TAB PO BID:PRN
   9. CloniDINE 0.1 mg PO TID
   30. Simvastatin 20 mg PO DAILY
   10. Digoxin 0.25 mg IV Q6H Duration: 3 Doses
   12. Famotidine 20 mg NG Q24H
   11. Docusate Sodium (Liquid) 100 mg PO BID

2102-04-14 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 4863**] is a [**Age over 90 **] year-old female with a history of
   HTN, DM, ?chronic aspiration, and Alzheimer's dementia who was
   transferred from the ED intubated after presenting with hypoxia and
   tachypnea. Now extubated with significant CHF, hypoxia, hemodynamic
   instability.
   24 Hour Events:
   - Pt became hypotensive on clonidine 0.2mg TID with the lasix, and
   ended up decr clonidine back to 0.1. In afternoon became hypotensive to
   80s and stopped lasix for an hour, restarted lasix then around 10pm
   hypotensive to 73 stopped lasix, but still dropped to 59/20s -> gave
   250cc bolus. Came back, later dropped again to 70s gave another 110cc
   (of 250).
   - Suction did not help
   - tPA cleared midline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-4-11**] 04:00 PM
   Azithromycin - [**2102-4-12**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 62 (50 - 83) bpm
   BP: 163/53(83) {59/22(31) - 194/75(99)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.3 kg (admission): 42 kg
             Total In:
                                                                  1,535 mL
                                                                    354 mL
   PO:
             TF:
                                                                    380 mL
                                                                    219 mL
   IVF:
                                                                    575 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,638 mL
                                                                     88 mL
   Urine:
                                                                  1,638 mL
                                                                     88 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   384 K/uL
   12.3 g/dL
   123 mg/dL
   1.1 mg/dL
   36 mEq/L
   4.2 mEq/L
   25 mg/dL
   97 mEq/L
   141 mEq/L
   37.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2102-4-10**]  06:00 AM
                             [**2102-4-10**]  06:38 AM
                             [**2102-4-10**]  08:26 PM
                             [**2102-4-11**]  01:58 AM
                             [**2102-4-11**]  03:39 AM
                             [**2102-4-11**]  05:35 PM
                             [**2102-4-12**]  03:59 AM
                             [**2102-4-12**]  09:14 PM
                             [**2102-4-13**]  04:48 AM
                             [**2102-4-14**]  04:13 AM
   WBC
   9.9
   14.6
   8.9
   10.9
   Hct
   29.3
   37.1
   33.0
   31.6
   37.3
   Plt
   290
   331
   349
   384
   Cr
   0.8
   1.0
   1.0
   1.0
   1.1
   1.1
   TCO2
   27
   32
   33
   Glucose
   173
   99
   117
   92
   114
   80
   123
   Other labs: PT / PTT / INR:13.5/25.8/1.2, ALT / AST:38/30, Alk Phos / T
   Bili:134/0.3, Differential-Neuts:72.0 %, Lymph:21.0 %, Mono:4.8 %,
   Eos:1.9 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:159 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4863**] is a [**Age over 90 **] year-old female with a history of HTN, DM,
   ?chronic aspiration, and Alzheimer's dementia who was transferred from
   the ED intubated after presenting with hypoxia and tachypnea. Now
   extubated with significant CHF, hypoxia, hemodynamic instability.
   #. Respiratory failure:  Patient presented with hypoxia and tachypnea
   and initial CXR with LUL consolidation. However, unclear if this
   definitively suggests pneumonia, as cultures have remained negative and
   pt had large mucous plug after intubation. New CXR show
s colllapse of
   entire R lung. Has also had significant repeated aspiration and
   pulmonary edema, likely due to her CHF and MR, possibly the primary
   source of her distress.
   - finished abx course
   - will try NT suction as likely mucous plugging that caused atelectasis
   of entire R lung
   # CHF
 pt continues to be fluid overloaded
   - goal to continue -2L today
   #. Hypertension:  Labile, pt required additional captopril and
   hydralizine overnight  as bp was up to 190s.
   -  increased clonidine to 0.2mg TID
   # Leukocytosis: concerning given rise while on antibiotics, however
   afebrile
   - repeat UA/UCx, BCx, c diff
   # Afib: transient, well controlled now on digoxin
   #.Alzheimer's dementia:  Not currently on any medications for this per
   daughter.  [**Name (NI) 4980**] severe, as patient frequently does not recognize her
   daugther.
   #. Breast cancer:  No aggressive management, no XRT.  Necrotic mass in
   right axilla.  Appears to be on arimidex.  Will confirm dose with
   pharmacy in a.m.
   #. Lower back pressure ulcer:  Cares per wound care reccs
   #. DM2:  Diet-controlled; not on insulin at home.
   - ISS
    Please see d/c summary for further details.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-4-14**] 12:01 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2102-4-10**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU